Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:6](=[C:5])[H:10])[H:8])[H:7],52.8003691561854
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1](=[C:2]([H:9])[H:10])([C@:3]1([H:8])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:7],74.22966536619509
[C:1]([C:2]1=[C:3]2[C:4]([H:11])([H:12])[C@@:5]2([C:7]([H:13])([H:14])[H:15])[O:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],4.3721192910771975
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10].[H:11][H:12],88.3747617930473
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4][O:6][H:18])[H:10])([H:7])([H:8])[H:9].[C:5]([H:14])([H:15])([H:16])[H:17]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9],18.52226091618239
[C:1](=[N:2][C:3](=[O:4])[C:5]([O:6][H:10])([H:11])[H:12])([H:7])[H:8].[H:9][H:13]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],42.3952670589408
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[C:7](\[C:6]([C:5]([C:4][H:12])([H:13])[H:14])([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10],62.7883915811819
[C:1]1([H:8])([H:10])[C:2]([H:9])([H:11])[C:3]([H:12])([H:13])[O:4][C:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],86.14021164035944
[C:1]([C@:4]([N:3]=[C:2]([H:10])[H:11])([O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],87.358790562793
[C:1]([C:2](=[C:3]([H:10])[H:11])[C@@:5]1([H:14])[C:4]([H:12])([H:13])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],65.09847405251911
[C:1]([C:2](=[O+:4][C:3](=[C:5]([O-:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],40.2491860941417
[O:1]([C:2]([C@@:4]([C:3][H:11])([O:5][C:6](=[O:7])[H:13])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],2.366717407979806
[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C+:2]([C:4]#[C:5][H:12])=[C:6]=[N-:7].[C:1]([O:3][H:11])([H:8])([H:9])[H:10],87.51692724201142
[C:1]1([H:8])([H:10])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C:6][C:7]1([H:9])[H:17]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],27.2234895404369
[N:1]([C:2](=[C:5]([C:3]#[C+:4])[N-:6][H:10])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],42.26861694565709
[C:1]([C@@:3]1([C:2][H:9])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:10]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2,1.536561058809312
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([N:7]([C@:6]1([H:13])[C:3](=[O:4])[N:5]1[H:12])[H:14])[H:11])([H:8])([H:9])[H:10],110.63261191519301
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O+:2][C:3](=[O:4])[C:5]([C-:6]([O:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][H:14],88.765755319915
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:16].[C:2]1([H:11])=[C:5]([C:6]#[N:7])[C@@:3]1([C:4]([H:13])([H:14])[H:15])[H:12],91.61803065522881
[C:1]1([H:9])([H:10])[O:2][C@:3]1([O:4][H:8])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],51.07163305949959
[C:4]([O:5][C:6](=[O:7])[H:12])([H:9])([H:10])[H:11].[N:1](=[C:2]=[O:3])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],67.50376597333232
[C:1]([C@@:2]([O:3][H:11])(/[C:4]([O:5][H:12])=[N:6]\[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],26.078890783956503
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[N:2](=[C:3]([H:12])[H:13])[H:11],105.12858033819201
